US04431822
A suspension of 4-chloro-2-fluoro-5-isopropoxynitrobenzene (13.5 g) and platinum dioxide (0.4 g) in ethanol (300 ml) was subjected to catalytic reduction with hydrogen under room temperature and atmospheric pressure, whereby a designed amount of hydrogen was absorbed. The resultant mixture was filtered to remove insoluble materials, and the filtrate was concentrated. The residue was subjected to purification by silica gel chromatography to obtain 5.6 g of 4-chloro-2-fluoro-5-isopropoxyphenylaniline. nD24.5 1.5360.

reactant | 4-chloro-2-fluoro-5-isopropoxynitrobenzene | 13.5 g | ClC1=CC(=C(C=C1OC(C)C)[N+](=O)[O-])F | C9H9ClFNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 0.4 g | [Pt](=O)=O
product | 4-chloro-2-fluoro-5-isopropoxyphenylaniline | 5.6 g | ClC1=CC(=C(C=C1OC(C)C)NC1=CC=CC=C1)F | C15H15ClFNO
